US07151111B2
A suspension of 61 mg (0.18 mmol) of (RS)-(E)-4-amino-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-pyrrolidin-2-one hydrochloride in 2.5 ml of dichloromethane is treated with 45 mg (0.44 mmol) of triethylamine. The mixture is cooled to 0° C. and, thereafter, 20 mg (0.26 mmol) of acetylchloride are added. After 1 hour at 0° C., the mixture is left to warm to RT and is diluted with dichloromethane. After washing with water, the organic layer is dried over magnesium sulfate and evaporated. The crude product is crystallised from ether to yield 49 mg (78% of theory) of (RS)-(E)-N-(1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-acetamide as a light brown solid; MS: m/e=339 (M+H)+.

reactant | (RS)-(E)-4-amino-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-pyrrolidin-2-one hydrochloride | 0.18 mmol, 61 mg | Cl.NC1CC(N(C1)C1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F)=O
reactant | triethylamine | 0.44 mmol, 45 mg | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.26 mmol, 20 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | (RS)-(E)-N-(1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-acetamide | 49 mg, 78% | FC=1C=C(C=CC1)/C=C/C1=CC=C(C=C1)N1CC(CC1=O)NC(C)=O | C20H19FN2O2
